US04255405
A solution of 1.2 gm 6- chloro-2-hydroxy-1,4-naphthoquinone (or 7-chloro or mixture thereof) and 0.48 g sodium bicarbonate in 58 ml of water is cooled to 5° C. and 2.3 ml of 30% hydrogen peroxide is added in one portion. The mixture is then stirred at 22° C. for 16 hours where the red crystalline product (0.24 g) is removed by filtration and crystallized from water:methanol (2:1) giving the 6-chloro-2,3-dihydroxy-1,4-naphthoquinone, m.p. 228°-229° C.

reactant | 6- chloro-2-hydroxy-1,4-naphthoquinone | 1.2 gm | ClC=1C=C2C(C=C(C(C2=CC1)=O)O)=O | C10H5ClO3
reactant | sodium bicarbonate | 0.48 g | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 2.3 ml | OO | H2O2
solvent | water | 58 ml | O | H2O
product | 6-chloro-2,3-dihydroxy-1,4-naphthoquinone | ClC=1C=C2C(C(=C(C(C2=CC1)=O)O)O)=O | C10H5ClO4
